US05880130
Using an analogous reaction procedure to that described in Example 33, a mixture of 4-[3'-(2,3-epoxypropoxy)anilino]6-(3'-methylanilino) pyrimidine, 33% dimethylamine in ethanol and DMF was stirred overnight at ambient temperature. The reaction mixture was diluted with water and extracted with ethyl acetate. The product so obtained was washed with water and with brine, dried (MgSO4) and evaporated. The residue was recrystallised from a mixture of methylene chloride, methanol and hexane to give 4-[3'-(3-dimethylamino-2-hydroxypropoxy)anilino]6-(3'-methylanilino)pyrimidine in 55% yield, m.p. 120°-122° C.;

reactant | 4-[3'-(2,3-epoxypropoxy)anilino]6-(3'-methylanilino) pyrimidine | O1C(COC=2C=C(NC3=NC=NC(=C3)NC3=CC(=CC=C3)C)C=CC2)C1 | C20H20N4O2
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[3'-(3-dimethylamino-2-hydroxypropoxy)anilino]6-(3'-methylanilino)pyrimidine | 55% yield | CN(CC(COC=1C=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)C)C=CC1)O)C | C22H27N5O2
